US08236793B2
4-(6-Phenylsulfanyl-pyridazin-3-yl)-1,4-diaza-bicyclo[3.2.2]nonane fumaric acid salt (Compound C1)
A mixture of 4-(6-chloro-pyridazin-3-yl)-1,4-diazabicyclo[3.2.2]nonane (0.27 g; 1.1 mmol) thiophenol (0.96 g; 8.4 mmol), caesium carbonate (369 mg; 1.1 mmol) and DMF (1 ml) was stirred at 125° C. for 15 hours. Aqueous sodium hydroxide (5 ml; 4M) was added. The mixture was extracted with dichloromethane (3×5 ml). Chromatography on silica gel with dichloromethane, 10% methanol and 1% aqueous ammonia as solvent gave the title compound as an oil. Yield 0.32 g (93%). The corresponding salt was obtained by addition of a diethyl ether and methanol mixture (9:1) saturated with fumaric acid. Mp. 102.2° C.

reactant | 4-(6-chloro-pyridazin-3-yl)-1,4-diazabicyclo[3.2.2]nonane | 1.1 mmol, 0.27 g | ClC1=CC=C(N=N1)N1CCN2CCC1CC2 | C11H15ClN4
reactant | thiophenol | 8.4 mmol, 0.96 g | C1(=CC=CC=C1)S | C6H6S
reactant | caesium carbonate | 1.1 mmol, 369 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | sodium hydroxide | 4M, 5 ml | [OH-].[Na+]
reactant | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 4-(6-Phenylsulfanyl-pyridazin-3-yl)-1,4-diaza-bicyclo[3.2.2]nonane fumaric acid salt | C(\C=C\C(=O)O)(=O)O.C1(=CC=CC=C1)SC1=CC=C(N=N1)N1CCN2CCC1CC2 | InChI=1S/C17H20N4S.C4H4O4/c1-2-4-15(5-3-1)22-17-7-6-16(18-19-17)21-13-12-20-10-8-14(21)9-11-20;5-3(6)1-2-4(7)8/h1-7,14H,8-13H2;1-2H,(H,5,6)(H,7,8)/b;2-1+
